US07601716B2
1-(2-Chloro-3,6-difluorobenzyl)-7-(3-fluoro-2-morpholin-4-yl-pyridin-4-yl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine
1-(2-Chloro-3,6-difluorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (100 mg) was reacted with 4-[3-fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-yl]morpholine as in General Procedure 4A to give the title compound as a tan foam (35% yield). M.p. (foam), LCMS: m/z=476.02 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 3.28 (t, J=4.8 Hz, 2H), 3.48 (t, J=4.8 Hz, 4H), 3.52-3.65 (m, 2H), 3.87 (t, J=4.6 Hz, 4H), 4.50 (s, 2H), 5.38 (bs, 1H), 6.82-6.86 (m, 1H), 6.97-7.04 (m, 1H), 7.08 (s, 1H), 7.04-7.15 (m, 1H), 7.70 (s, 1H), 8.00 (d, J=5.0 Hz, 1H).

reactant | 1-(2-Chloro-3,6-difluorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 100 mg | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)I)C(=CC=C1F)F | C14H11ClF2IN3
reactant | 4-[3-fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-yl]morpholine | FC=1C(=NC=CC1B1OC(C(O1)(C)C)(C)C)N1CCOCC1 | C15H22BFN2O3
product | 1-(2-Chloro-3,6-difluorobenzyl)-7-(3-fluoro-2-morpholin-4-yl-pyridin-4-yl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 35% yield | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)C3=C(C(=NC=C3)N3CCOCC3)F)C(=CC=C1F)F | C23H21ClF3N5O
